US08912219B2
Step 1: Phenyl 1H-imidazole-1-sulfonate
To a solution of phenol (400 mg, 4.3 mmol) in THF (25 mL) was added 1,1′-sulfonyldiimidazole (1.0 g, 5.1 mmol) and Cs2CO3 (2.8 g, 8.5 mmol). The mixture was stirred at ambient temperature for 16 h. The solvent was removed and the residue was purified by silica gel chromatography to yield the title compound (580 mg, 60%).

reactant | phenol | 4.3 mmol, 400 mg | C1(=CC=CC=C1)O | C6H6O
reactant | 1,1′-sulfonyldiimidazole | 5.1 mmol, 1.0 g | S(=O)(=O)(N1C=NC=C1)N1C=NC=C1 | C6H6N4O2S
reactant | Cs2CO3 | 8.5 mmol, 2.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Phenyl 1H-imidazole-1-sulfonate | 580 mg, 60% | N1(C=NC=C1)S(=O)(=O)OC1=CC=CC=C1 | C9H8N2O3S
